US07576099B2
MS 4 Å (powder, 16 g) was added to a 1 M solution of TBAF in THF (20 mL, 20 mmol), and the mixture was stirred at room-temperature overnight under an argon atmosphere. To the mixture were added a solution of methyl 4-formyl-2-methoxybenzoate (420 mg, 0.0022 mol) and 2,2,2-trifluoroethyldiphenylphosphine oxide (1.23 g, 0.00432 mol) in THF (20 mL). After the mixture was stirred for 2 h, MS 4 Å was removed by filtration. The filtrate was concentrated and water (120 mL) was added. The mixture was extracted with AcOEt. The extract was washed with brine, dried (Na2SO4), and concentrated. The residue was purified by column chromatography on silica gel using AcOEt-hexane (0-15%) as eluent to give (E)-methyl 4-(3,3,3-trifluoroprop-1-enyl)-2-methoxybenzoate as a white solid, followed by (Z)-methyl 4-(3,3,3-trifluoroprop-1-enyl)-2-methoxybenzoate as a colorless oil.

reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | methyl 4-formyl-2-methoxybenzoate | 0.0022 mol, 420 mg | C(=O)C1=CC(=C(C(=O)OC)C=C1)OC | C10H10O4
reactant | 2,2,2-trifluoroethyldiphenylphosphine oxide | 0.00432 mol, 1.23 g | FC(CP(C1=CC=CC=C1)(C1=CC=CC=C1)=O)(F)F | C14H12F3OP
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mmol, 20 mL | C1CCOC1 | C4H8O
product | (E)-methyl 4-(3,3,3-trifluoroprop-1-enyl)-2-methoxybenzoate | FC(/C=C/C1=CC(=C(C(=O)OC)C=C1)OC)(F)F | C12H11F3O3
